US06569854B1
1.5 g of glutaric anhydride and then 2.13 g of N-(chloropropyl)piperazine in solution in 5 cm3 of dioxane and 1 cm3 of dichloromethane are added to 15 cm3 of dioxane in a round-bottomed flask kept under an argon atmosphere. After stirring for 2 hours at 20° C., the solvent is evaporated under reduced pressure (2.7 kPa) at 20° C., to give 3.75 g of 5-[4-(3-chloropropyl)piperazin-1-yl]-5-oxopentanoic acid in the form of a yellow oil which is used as it is.

reactant | glutaric anhydride | 1.5 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | N-(chloropropyl)piperazine | 2.13 g | ClCCCN1CCNCC1 | C7H15ClN2
reactant | dichloromethane | 1 cm3 | ClCCl | CH2Cl2
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 cm3 | O1CCOCC1 | C4H8O2
product | 5-[4-(3-chloropropyl)piperazin-1-yl]-5-oxopentanoic acid | 3.75 g | ClCCCN1CCN(CC1)C(CCCC(=O)O)=O | C12H21ClN2O3
